US06462040B1
To 30 ml of a dimethylformamide solution of 2.288 g (10.2 mmol) of 3-(cis-2-t-butoxycarbonylcyclopropyl)pyrrolidin-2-one was added 406.2 mg (10.2 mmol) of sodium hydride under cooling with ice, followed by stirring at room temperature for 1.5 hours. Then, 1.81 ml (15.3 mmol) of benzyl chloride was added thereto dropwise, followed by stirring for 2.5 hours. After completion of the reaction, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate, and the organic layer was washed with water and a saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by evaporation under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=7:3) to give 1.121 g (35.0%) of 1-benzyl-3-(2-t-butoxycarbonylcyclopropyl)pyrrolidin-2-one (isomer A: an isomer attributed to the steric configuration of the cyclopropyl group bonded to the carbon atom of the pyrrolidine ring) as a colorless solid. The column was then eluted with hexane:ethyl acetate=l:l to give 670.9 mg (20.9%) of 1-benzyl-3-(cis-2-t-butoxycarbonylcyclopropyl)pyrrolidin-2-one (isomer B: an isomer attributed to the steric configuration of the cyclopropyl group bonded to the carbon atom of the pyrrolidine ring) as a colorless solid.

reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | 3-(cis-2-t-butoxycarbonylcyclopropyl)pyrrolidin-2-one | 10.2 mmol, 2.288 g | C(C)(C)(C)OC(=O)[C@@H]1[C@@H](C1)C1C(NCC1)=O | C12H19NO3
reactant | sodium hydride | 10.2 mmol, 406.2 mg | [H-].[Na+]
reactant | benzyl chloride | 15.3 mmol, 1.81 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | O | H2O
product | 1-benzyl-3-(2-t-butoxycarbonylcyclopropyl)pyrrolidin-2-one | 1.121 g, 35.0% | C(C1=CC=CC=C1)N1C(C(CC1)C1C(C1)C(=O)OC(C)(C)C)=O | C19H25NO3
